US09301951B2
3-(2-(2-(2-(3-(3-((2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)phenyl)propoxy)ethoxy)ethoxy)ethoxy)propanoic acid
This compound was prepared according to the procedure described for the synthesis of Example 251 substituting 126e in place of 25b. Into a 50-mL round-bottom flask, was placed a solution of 3-(3-(2-(2-(2-(3-tert-butoxy-3-oxopropoxy)ethoxy)ethoxy)ethoxy)propyl)benzoic acid (1.308 g, 2.97 mmol, 1.00 equiv) in dichloromethane (15 mL), 2-(2-amino-5-(piperidin-1-yl)phenyl)-N—((S)-1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide (1.26 g, 2.96 mmol, 0.99 equiv), EDC.HCl (854.8 mg, 4.46 mmol, 1.50 equiv), 4-dimethylaminopyridine (544 mg, 4.46 mmol, 1.50 equiv). The resulting solution was stirred overnight at room temperature. The reaction progress was monitored by LCMS/TLC (DCM:MeOH=10:1). The resulting mixture was washed with 2×20 mL of NH4Cl aq. The resulting mixture was washed with 2×20 mL of Brine. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10˜1:1). This resulted in 2.0 g (79%) of tert-butyl 3-(2-(2-(2-(3-(3-((2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)phenyl)propoxy)ethoxy)ethoxy)ethoxy)propanoate as yellow oil.

reactant | 3-(3-(2-(2-(2-(3-tert-butoxy-3-oxopropoxy)ethoxy)ethoxy)ethoxy)propyl)benzoic acid | 2.97 mmol, 1.308 g, 1.00 equiv | C(C)(C)(C)OC(CCOCCOCCOCCOCCCC=1C=C(C(=O)O)C=CC1)=O | C23H36O8
reactant | 2-(2-amino-5-(piperidin-1-yl)phenyl)-N—((S)-1,2,3,4-tetrahydronaphthalen-1-yl)isonicotinamide | 2.96 mmol, 1.26 g, 0.99 equiv | NC1=C(C=C(C=C1)N1CCCCC1)C=1C=C(C(=O)N[C@H]2CCCC3=CC=CC=C23)C=CN1 | C27H30N4O
reactant | EDC.HCl | 4.46 mmol, 854.8 mg, 1.50 equiv | CCN=C=NCCCN(C)C.Cl
reactant | MeOH | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.46 mmol, 544 mg, 1.50 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(2-(2-(2-(3-(3-((2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)-4-(piperidin-1-yl)phenyl)carbamoyl)phenyl)propoxy)ethoxy)ethoxy)ethoxy)propanoic acid | [C@@H]1(CCCC2=CC=CC=C12)NC(=O)C1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1C=C(C=CC1)CCCOCCOCCOCCOCCC(=O)O | C46H56N4O8
